US04968682
b. 3,4-dihydro-4-isopropyl-2-hydroxy-3-oxo-quinoxaline-1-oxide
In a similar manner 8-chloro-1,2,3,4-tetrahydro-1-isopropyl-2,3-dioxo-quinoxaline was prepared from 2-chloro-N-ethoxalyl-N-isopropyl-6-nitroaniline by hydrogenation using methylene chloride as solvent. M.p. 228°-229° C.

reactant | 8-chloro-1,2,3,4-tetrahydro-1-isopropyl-2,3-dioxo-quinoxaline | ClC=1C=CC=C2NC(C(N(C12)C(C)C)=O)=O | C11H11ClN2O2
reactant | 2-chloro-N-ethoxalyl-N-isopropyl-6-nitroaniline | ClC1=C(N(C(C)C)C(=O)C(=O)OCC)C(=CC=C1)[N+](=O)[O-] | C13H15ClN2O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,4-dihydro-4-isopropyl-2-hydroxy-3-oxo-quinoxaline-1-oxide | C(C)(C)N1C(C(=[N+](C2=CC=CC=C12)[O-])O)=O | C11H12N2O3
